US08809380B2
Step 1. (R)-tert-butyl 2-((2-cyanopyridin-3-yloxy)methyl)pyrrolidine-1-carboxylate
A mixture of tert-butyl (2R)-2-[(methanesulfonyloxy)methyl]pyrrolidine-1-carboxylate (7.38 g, 26.4 mmol, Tetrahedron Asymmetry, 1997, 8, 2209-2213), 3-hydroxypicolinonitrile (4.76 g, 39.6 mmol), and potassium carbonate (10.95 g, 79.0 mmol) in N,N-dimethylformamide (150 mL) was stirred at 100° C. for 6 h. After cooling to room temperature, the mixture was poured into water, and the aqueous layer was extracted with ethyl acetate twice. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residual oil was purified by silica gel column chromatography (ethyl acetate/hexane 1:2 to 1:1) to give 3.62 g (45%) of the title compound as a colorless oil.

reactant | tert-butyl (2R)-2-[(methanesulfonyloxy)methyl]pyrrolidine-1-carboxylate | 26.4 mmol, 7.38 g | CS(=O)(=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 3-hydroxypicolinonitrile | 39.6 mmol, 4.76 g | OC=1C(=NC=CC1)C#N | C6H4N2O
reactant | potassium carbonate | 79.0 mmol, 10.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | (R)-tert-butyl 2-((2-cyanopyridin-3-yloxy)methyl)pyrrolidine-1-carboxylate | 3.62 g, 45% | C(#N)C1=NC=CC=C1OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C16H21N3O3
